US06982348B2
To a solution of ethyl 3-(4-fluorophenyl)-3-oxopropionate (7.2 g, 34.3 mmol) in 1,2-dimethoxyethane (50 ml) was added sodium hydride (60% in oil, 1.37 g, 34.3 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 1-(chloromethyl)-3-(phenyloxy)benzene (9.0 g, 41.6 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was heated under reflux overnight. The reaction solution was poured into water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1-toluene) to give ethyl 3-(4-fluorophenyl)-3-oxo-2-((3-(phenyloxy)phenyl)methyl)propionate (10.2 g, crude, 76%).

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 34.3 mmol, 7.2 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 34.3 mmol, 1.37 g | [H-].[Na+]
reactant | 1-(chloromethyl)-3-(phenyloxy)benzene | 41.6 mmol, 9.0 g | ClCC1=CC(=CC=C1)OC1=CC=CC=C1 | C13H11ClO
reactant | water | 200 ml | O | H2O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-((3-(phenyloxy)phenyl)methyl)propionate | 10.2 g, 76% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C24H21FO4
